### PR TITLE
Voltaire: DRep restrictions

### PR DESCRIPTION
**Pull request by WhatisRT**

### CODE REVIEW

File: src/Axiom/Set.agda [hunk 1]
```diff
@@ -141,11 +166,11 @@ record Theory {ℓ} : Type (sucˡ ℓ) where
 
   ❴_❵ = singleton
 
-  ∈-singleton : {a b : A} → a ∈ singleton b ⇔ a ≡ b
+  ∈-singleton : {a b : A} → a ≡ b ⇔ a ∈ singleton b
```
Comment (Soupstraw) [inline src/Axiom/Set.agda:169]: Why did you flip the equivalence here?

File: src/Axiom/Set/Properties.agda [hunk 2]
```diff
@@ -112,9 +121,27 @@ cong-⊆⇒cong₂ h X≡ᵉX' Y≡ᵉY' = h (proj₁ X≡ᵉX') (proj₁ Y≡
 ∅-weakly-finite : weakly-finite {A = A} ∅
 ∅-weakly-finite = [] , ⊥-elim ∘ ∉-∅
 
+card-≡ᵉ : (X Y : Σ (Set A) strongly-finite) → proj₁ X ≡ᵉ proj₁ Y → card X ≡ card Y
+card-≡ᵉ (X , lX , lXᵘ , eqX) (Y , lY , lYᵘ , eqY) X≡Y =
+  ↭-length $ ∼bag⇒↭ $ unique∧set⇒bag lXᵘ lYᵘ λ {a} → toRelated $
+    a ∈ˡ lX  ∼⟨ R.SK-sym eqX ⟩ a ∈ X ∼⟨ to ≡ᵉ⇔≡ᵉ' X≡Y a ⟩ a ∈ Y ∼⟨ eqY ⟩ a ∈ˡ lY ∎
```
Comment (Soupstraw) [inline src/Axiom/Set/Properties.agda:127]: Maybe break this into separate lines to improve readability

File: src/Axiom/Set/Sum.agda [hunk 3]
```diff
@@ -116,5 +123,17 @@ module _ ⦃ _ : DecEq A ⦄ ⦃ _ : DecEq B ⦄ where
       where instance _ = Xᶠ
                      _ = Yᶠ
 
+    indexedSumᵐ-partition : ∀ {m m₁ m₂ : FinMap A B} {f} → toRel m ≡ toRel m₁ ⨿ toRel m₂
+                          → indexedSumᵐ f m ≈ indexedSumᵐ f m₁ ∙ indexedSumᵐ f m₂
+    indexedSumᵐ-partition {m} {m₁} {m₂} {f} m≡m₁∪m₂ = begin
+      indexedSumᵐ f m ≈⟨ indexedSumᵐ-cong {x = m} {m₁ ∪ᵐˡᶠ m₂} helper ⟩
+      indexedSumᵐ f (m₁ ∪ᵐˡᶠ m₂) ≈⟨ indexedSumᵐ-∪ {X = m₁} {Y = m₂} disj-dom' ⟩
+      indexedSumᵐ f m₁ ∙ indexedSumᵐ f m₂ ∎
```
Comment (Soupstraw) [inline src/Axiom/Set/Sum.agda:131]:
```suggestion
      indexedSumᵐ f m                     ≈⟨ indexedSumᵐ-cong {x = m} {m₁ ∪ᵐˡᶠ m₂} helper ⟩
      indexedSumᵐ f (m₁ ∪ᵐˡᶠ m₂)          ≈⟨ indexedSumᵐ-∪ {X = m₁} {Y = m₂} disj-dom' ⟩
      indexedSumᵐ f m₁ ∙ indexedSumᵐ f m₂ ∎
```

**Review by Soupstraw — APPROVED** [review]

File: src/Axiom/Set.agda [hunk 4]
```diff
@@ -84,6 +89,20 @@ record Theory {ℓ} : Type (sucˡ ℓ) where
   weakly-finite : Set A → Type ℓ
   weakly-finite X = ∃[ l ] ∀ {a} → a ∈ X → a ∈ˡ l
 
+  strongly-finite : Set A → Type ℓ
+  strongly-finite X = ∃[ l ] Unique l × ∀ {a} → a ∈ X ⇔ a ∈ˡ l
```
Comment (williamdemeo) [inline src/Axiom/Set.agda:93]: Is this the first place `Unique` is used in the formal-ledger-spec?  If so, should we add a comment or doc explaining what it is?  e.g., 

```agda
  -- `Unique l` is an alias for `Allpairs R l`, where the relation R is
  -- `Distinct x y = ¬ (x ≈ y)`, so `Unique l` means `x ≉ y` for all `x, y ∈ l`.
```

Comment (Soupstraw) [reply src/Axiom/Set.agda:93]: That's a fair point, I first read it as "exists a unique `l`"

Comment (WhatisRT) [reply src/Axiom/Set.agda:93]: I'll add a comment explaining that definition a bit and then merge this PR. I'm happy to rework the definition of `card` in some other way in the future.
